US06417212B1
E. 2-{4-[2-(2-Biphenyl-4-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid
A sample of 2-{4-[2-(2-biphenyl-4-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester (400 mg, 0.8 mmol) was dissolved in EtOH (15 mL) and 5N NaOH (5 mL) added. The reaction was warmed at 40° C. for 1.5 h and then cooled to room temperature. After removing some of the EtOH, the reaction was acidified with HCl. After stirring in an ice-bath for 1 h, the yellow solid was collected and dried to give 328 mg (87%) acid as a yellow powder, mp 174° C., MS (m/e) 474 (MH); 1H NMR (CDCl3) δ1.53 (s, 6H), 2.57 (s, 3H), 3.48 (t, 2H), 4.44 (t, 2H), 6.80 (d, 2H), 6.91 (d, 2H), 7.40-7.54 (m, 3H), 7.51 (d, 2H), 7.64 (d, 2H), 8.26 (d, 2H).

reactant | 2-{4-[2-(2-biphenyl-4-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | 0.8 mmol, 400 mg | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H31NO4S
reactant | NaOH | 5N, 5 mL | [OH-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-{4-[2-(2-Biphenyl-4-yl-5-methyl-thiazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid | 328 mg, 87% | C1(=CC=C(C=C1)C=1SC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C)C1=CC=CC=C1 | C28H27NO4S
